US07652049B2
(4S,5R)-3-[(4-amino-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one
A solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4′-fluoro-5′-isopropyl-2′-methoxy-4-nitrobiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one (1.94 g, 3.16 mmol) in methanol (20 mL) was subject to H2 (40 psi., Parr shaker) at 20° C. for 1.5 h. LCMS indicated the presence of trace starting material. The crude mixture was filtered through a bed of Celite (521). The filtrate was evaporated in vacuo to afford a glass as the product. LC-MS: 585.32 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 1:1 mixture of rotamers δ 7.83 (s, 1H), 7.67 (s, 2H), 6.93-7.06 (m, 2H), 6.87 (s, 0.5H), 6.72-6.82 (m, 1.5H), 5.57 (d, J=8.0 Hz, 0.5H), 5.36 (d, J=8.0 Hz, 0.5H), 4.77 (d, J=5.5 Hz, 0.5H), 4.74 (d, J=6.5 Hz, 0.5H), 3.95 (d, J=15.5 Hz, 0.5H), 3.75-3.86 (m, 1.5H), 3.73 (s, 3 E), 3.12-3.24 (m, 1H), 1.11-1.29 (m, 6H), 0.47 (d, J=6.5 Hz, 1.5H), 0.29 (d, J=6 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4′-fluoro-5′-isopropyl-2′-methoxy-4-nitrobiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | 3.16 mmol, 1.94 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C29H25F7N2O5
solvent | methanol | 20 mL | CO | CH4O
product | (4S,5R)-3-[(4-amino-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | NC1=CC(=C(C=C1)C1=C(C=C(C(=C1)C(C)C)F)OC)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C29H27F7N2O3
